data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C1CC=C2C(C1)(CC(=O)N2CCC3=CC(=C(C=C3)OC)OC)C(=O)OC.C(=O)(C(F)(F)F)[O-:10].CC(=O)C>>[H:20][O:10]C(=O)C(F)(F)F.COC1=C(C=C(C=C1)CCN2C(=O)CC3(C2=CCC(=[O:21])C3)C(=O)OC)OC.CC(=O)C 10=20;20,21=21
[H:20][OH2+:21].CCN[C:11](=[CH:10]CCC(=O)C)[O-:12]>>[H:20][CH:10](CCC(=O)C)[C:11](=[O:12])NCC.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](C1C(CC(=O)N1C)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)S(=O)(=O)C.CC[N:10](CC)CC.[Cl-]>>[H:20][N+:10](CC)(CC)CC.CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)[O:21]S(=O)(=O)C.[Cl-] 10=20;20,21=21
C[N:12](C)[CH:11]=[O:10].[P+:20](Cl)(Cl)(Cl)Cl.CCOCC>>C[N+:12](=[CH:11][O:10][P:20](Cl)(Cl)(Cl)Cl)C.CCOCC 10,11=10,20;12=11
C1C[C:20](=[O+:21]CCO)CCC1OCC2=CC=CC=C2.[OH2:10].CC(=O)[O-].C1CCOC1>>C1C[C:20](CCC1OCC2=CC=CC=C2)([OH2+:10])[O:21]CCO.CC(=O)[O-].C1CCOC1 10=20;20,21=21
[B-]([OH+:21][C:20]12C3=C(C=C(C=C3)C)C4C1(CCC(CC4)C)OCC[O:10]2)(F)(F)F.CC[SiH](CC)CC>>[B-]([OH:21])(F)(F)F.CC1CCC2C3=C(C=CC(=C3)C)[C:20]4=[O+:10]CCOC24CC1.CC[SiH](CC)CC 10=20;20,21=21
[H:20][O:21]C(=O)C.CC1(CC2=C([NH2+]1)CCCC2=O)[O-:10].O>>[H:20][O:10]C1(CC2=C([NH2+]1)CCCC2=O)C.CC(=O)[O-:21].O 10=20;20,21=21
[H:20][O:21]C(=O)C1=C(C(=CC=C1COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(F)(F)F)OCC=C.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)C>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)C)OCC.C=CCOC1=C(C(=CC=C1C(F)(F)F)COC2=CC=C(C=C2)C3=CC=C(C=C3)CC(=O)OCC=C)C(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]CC.CCOC(=O)CC(C1=CC=CC=C1)[O-:10]>>[H:20][O:10]C(CC(=O)OCC)C1=CC=CC=C1.CC[O-:21] 10=20;20,21=21
[H:10][C:11]1(CCCCC1CCCCC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1CCCCC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]CC.CC1CCC(CC1)S(=O)(=O)C2C3(CCCC3)O[C-:10]=N2>>[H:20][C:10]1=NC(C2(O1)CCCC2)S(=O)(=O)C3CCC(CC3)C.CC[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.CO[P:11](=[O:10])(N=[N+]=[N-])OC>>[H:20][O:10][P+:11](N=[N+]=[N-])(OC)OC.CC(=O)[O-:21] 10,11=10,20;20,21=21
[Li:11][C:10]1=CC=CC=C1.CC(=O)O[C:20](=[O:21])CCC=O>>[Li+:11].CC(=O)O[C:20](CCC=O)([C:10]1=CC=CC=C1)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)C(F)(F)F.CCOC(=O)CCC1(COC2=C(C3=C(C=CC=C3)C(=C21)C)OC)[OH:10]>>[H:20][OH+:10]C1(COC2=C(C3=C(C=CC=C3)C(=C21)C)OC)CCC(=O)OCC.C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
CC(C)(C)[CH:20]1C[Br+:21]1.[Br-:10]>>CC(C)(C)[CH:20](C[Br:21])[Br:10] 10=20;20,21=21
CC=CC[O-:10].[P:20](Br)(Br)[Br:21]>>CC=CC[O:10][P:20](Br)Br.[Br-:21] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)OC(=O)CC)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(=O)O[C:24]1=[CH:23][CH:22]=[C:21](C=C1)S(=O)(=O)O 10=20;20,21=21,22;22,23=23,24
CC1=CN=C(S1)C2(CC[C:20](CC2)([OH:10])[OH+:21]CCO)O.C1CCOC1.O.[Cl-]>>C(CO)[OH:21].CC1=CN=C(S1)C2(CC[C:20](=[OH+:10])CC2)O.C1CCOC1.O.[Cl-] 10=20;20,21=21
CC(C)OC(=O)CC1C2=C(CC[NH:10]1)C=C(C=C2)OC.C1CC[C:20](=[O:21])C1.C(=O)(C(F)(F)F)O>>CC(C)OC(=O)CC1C2=C(CC[NH+:10]1[C:20]3(CCCC3)[O-:21])C=C(C=C2)OC.C(=O)(C(F)(F)F)O 10=20;20,21=21
[H:20][CH2:21][C+:22]1C2CCC(C2)C1(C)C.[OH2:10]>>[H:20][OH2+:10].CC1(C2CCC(C2)[C:22]1=[CH2:21])C 10=20;20,21=21,22
[H:20][CH:21](C)[CH:22]=[OH+:23].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[CH:21]=[CH:22][OH:23] 10=20;22,23=23;20,21=21,22
[H:20][O:21]C=O.C1COC([O:10]C1)CCC2=C(C=NC=N2)Br.O>>[H:20][O+:10]1CCCOC1CCC2=C(C=NC=N2)Br.C(=O)[O-:21].O 10=20;20,21=21
[H:20][O:21]CC.CC(C)C(=O)C(C1=CC=CC=C1)C(CC2=CC=CC=C2)(C(C)C)[O-:10]>>[H:20][O:10]C(CC1=CC=CC=C1)(C(C)C)C(C2=CC=CC=C2)C(=O)C(C)C.CC[O-:21] 10=20;20,21=21
[H:20][N+:21](CC)(CC)CC.CC[N+]1=C(SC(=C1C)CCO)C(C2=CC=C(C=C2)OC)[O-:10].CCO.CC(=O)C=C.[Br-]>>[H:20][O:10]C(C1=CC=C(C=C1)OC)C2=[N+](C(=C(S2)CCO)C)CC.CC[N:21](CC)CC.CCO.CC(=O)C=C.[Br-] 10=20;20,21=21
[H:20][OH2+:21].C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.[OH2:21] 10=20;20,21=21
CC[O-:10].CCOCCC[CH2:20][Br:21]>>CCOCCC[CH2:20][O:10]CC.[Br-:21] 10=20;20,21=21
[CH2:20](CCl)[O:21]S(=O)Cl.[Cl-:10]>>C([CH2:20][Cl:10])Cl.[O-:21]S(=O)Cl 10=20;20,21=21
[Li:11][CH2:10]CCC.CCCC[C:20](=[O:21])C1=CC=CC=C1.[Li]OCCC>>CCCC[C:20]([CH2:10]CCC)(C1=CC=CC=C1)[O-:21].[Li+:11].[Li]OCCC 10,11=10,20;20,21=21
CCC1CC[C:11]([CH2:10]1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CCC1CC[C:11](=[OH+:12])[CH2:20][CH2:10]1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
[H:20][O:21]P(=O)(O)OP(=O)(O)O.COC1=C(C=C(C=C1)CC[N:12]2C(=O)CC3([C:11]2=[CH:10]CC(=O)C3)C(=O)OC)OC>>[H:20][CH:10]1CC(=O)CC2([C:11]1=[N+:12](C(=O)C2)CCC3=CC(=C(C=C3)OC)OC)C(=O)OC.OP(=O)(O)OP(=O)(O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](C1CCC(OC1=O)CCCCCC)P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC.C1=CC(=CC=C1CBr)C(=O)[O-:10]>>[H:20][O:10]C(=O)C1=CC=C(C=C1)CBr.CCCCCCC1CCC(C(=O)O1)[O:21]P(C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)N(C(=O)OCC)NC(=O)OCC 10=20;20,21=21
CCO[C:11](=[CH:10]C(=O)C)[O-:12].C1=CC=C(C=C1)[CH2:20][Br:21]>>CCO[C:11](=[O:12])[CH:10]([CH2:20]C1=CC=CC=C1)C(=O)C.[Br-:21] 10,11=10,20;20,21=21;12=11
